US07250442B2
1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(3-methoxy-benzyl)-1,3-dihydro-indol-2-one
Using a method similar to Example 37, with 3-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-benzyl)-1,3-dihydro-indol-2-one (250 mg, 0.51 mmol), a 0.5M solution of potassium bis(trimethylsilyl)amide (1.04 mL, 0.52 mmol), and 3-methoxybenzyl bromide (0.073 mL, 0.31 mmol) in DMF (5 mL) followed by treatment with TBAF (0.56 mL, 0.56 mmol) gives a crude yellow solid. Purify by flash chromatography (gradient of 50% hexanes/CH2Cl2 to CH2Cl2) to give 148 mg (58%) of the title compound as a yellow powder. MS (ES): m/z=498 (M+1), 496 (M−1); 1H NMR(DMSO-d6); δ8.28 (s, 1H), 7.56 (m, 1H), 7.45 (dd, J=1.0 Hz, J=8.0 Hz, 1H), 7.24 (m, 1H), 7.14 (m, 2H), 7.00 (s, 2H), 6.85-6.76 (m, 3H), 6.64 (d, J=8.7 Hz, 2H), 6.50 (m, 1H), 5.68 (d, J=6.6 Hz, 1H), 4.79 (abq, J=17.1 Hz, 2H), 3.68 (s, 3H), 3.60 (d, J=12.7 Hz, 1H), 2.15 (s, 6H).

reactant | 3-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1-(2-chloro-benzyl)-1,3-dihydro-indol-2-one | 0.51 mmol, 250 mg | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)Cl)=O)C)(C)C | C29H34ClNO2Si
reactant | potassium bis(trimethylsilyl)amide | 0.52 mmol, 1.04 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-methoxybenzyl bromide | 0.31 mmol, 0.073 mL | COC=1C=C(CBr)C=CC1 | C8H9BrO
reactant | TBAF | 0.56 mmol, 0.56 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(3-methoxy-benzyl)-1,3-dihydro-indol-2-one | 148 mg, 58% | ClC1=C(CN2C(C(C3=CC=CC=C23)(CC2=CC(=CC=C2)OC)C2=CC(=C(C(=C2)C)O)C)=O)C=CC=C1 | C31H28ClNO3
